US04062869
A suspension of methyl 5-benzyloxyindol-3-ylglyoxylate (10 g.) and sodium borohydride (3.7 g.) in isopropanol (100 ml.) was stirred and refluxed for 5 hours. The cooled mixture was diluted with water and extracted with dichloromethane. Evaporation of the extract gave a pale yellow oil which crystallised from a mixture of toluene and petroleum ether to give 5-benzyloxy-3-(2-hydroxyethyl)indole as a white crystalline powder m.p. 97°-98°.

reactant | methyl 5-benzyloxyindol-3-ylglyoxylate | 10 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C18H15NO4
reactant | sodium borohydride | 3.7 g | [BH4-].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-benzyloxy-3-(2-hydroxyethyl)indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCO | C17H17NO2
